US05066825
49.5 g of 2-(3,4-dimethoxy-α-hydroxybenzyl)-3,4,5-trimethoxybenzaldehyde dimethyl acetal are dissolved in 5 ml of toluene. 14.2 g of dimethyl acetylenedicarboxylate and 19 mg of p-toluenesulfonic acid monohydrate are added to the solution, and the mixture is refluxed for 3 hours. After cooling the reaction mixture, 200 ml of methanol are added thereto, and the mixture is allowed to stand at -30° C. overnight. The precipitated crystals are collected by filtration and recrystallized from ethyl acetate to give 33.1 g of 1-(3,4-dimethoxyphenyl)-2,3-bis(methoxycarbonyl)-4-hydroxy-6,7,8-trimethoxynaphthalene as colorless prisms.

reactant | 2-(3,4-dimethoxy-α-hydroxybenzyl)-3,4,5-trimethoxybenzaldehyde dimethyl acetal | 49.5 g | COC(C1=C(C(=C(C(=C1)OC)OC)OC)C(C1=CC(=C(C=C1)OC)OC)O)OC | C21H28O8
reactant | dimethyl acetylenedicarboxylate | 14.2 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | methanol | 200 ml | CO | CH4O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 19 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-(3,4-dimethoxyphenyl)-2,3-bis(methoxycarbonyl)-4-hydroxy-6,7,8-trimethoxynaphthalene | 33.1 g | COC=1C=C(C=CC1OC)C1=C(C(=C(C2=CC(=C(C(=C12)OC)OC)OC)O)C(=O)OC)C(=O)OC | C25H26O10
